US05231190
Methyl magnesium chloride (40 mL of a 3 M solution in tetrahydrofuran, 0.12 mol) was added to a solution of 2,6-bis[1,1-dimethylethyl]selenopyran-4-one (22 g, 0.081 mol, prepared in Part C above ) in dry tetrahydrofuran (100 mL) which was initially maintained at -20° C. using a cold bath; the addition was effected at such a rate that the temperature in the reaction vessel did not exceed -15° C. The cold bath was removed, and the pale yellow solution was allowed to stir at room temperature for four hours, during which time a thick slurry formed. The mixture was then poured into ice/water (1 L) with rapid agitation, and tetrafluoroboric acid (200 mL of a 48% aqueous solution) was added. Stirring was continued for a further two hours, after which the mixture was extracted with dichloromethane (3×100 mL). The organic layer was dried over magnesium sulfate and concentrated under reduced pressure to give a tan residue, which was triturated with ether. The solid which resulted was collected by filtration, washed with ether and dried to give 2,6-bis(1,1-dimethylethyl)-4-methylselenopyrylium tetrafluoroborate (24.7 g, 85% yield) as an off-white solid which melted at 65°-66° C. The structure of this compound was confirmed by mass spectroscopy and by 1H and 13C NMR spectroscopy.

reactant | Methyl magnesium chloride | C[Mg]Cl
reactant | 2,6-bis[1,1-dimethylethyl]selenopyran-4-one | 0.081 mol, 22 g | CC(C)(C)C=1[Se]C(=CC(C1)=O)C(C)(C)C | C13H20OSe
reactant | tetrafluoroboric acid | F[B-](F)(F)F.[H+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2,6-bis(1,1-dimethylethyl)-4-methylselenopyrylium tetrafluoroborate | 24.7 g, 85% yield | F[B-](F)(F)F.CC(C)(C)C1=[Se+]C(=CC(=C1)C)C(C)(C)C | InChI=1S/C14H23Se.BF4/c1-10-8-11(13(2,3)4)15-12(9-10)14(5,6)7;2-1(3,4)5/h8-9H,1-7H3;/q+1;-1
